US05250548
Ethyl 5-n-butyl-4-chloropyridine-3-carboxylate
Ethyl 5-n-butyl-4-oxo-1,4-dihydropyridine-3-carboxylate (prepared as described by M. Balogh, et al. in J. Heterocyclic Chem., 17, 359-368 (1980)) is refluxed in phosphorous oxychloride to give the title compound.

reactant | Ethyl 5-n-butyl-4-oxo-1,4-dihydropyridine-3-carboxylate | C(CCC)C=1C(C(=CNC1)C(=O)OCC)=O | C12H17NO3
reactant | phosphorous oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | Ethyl 5-n-butyl-4-chloropyridine-3-carboxylate | C(CCC)C=1C(=C(C=NC1)C(=O)OCC)Cl | C12H16ClNO2
